### PR TITLE
feat: add `BitVec.toInt_sdiv` plus corresponding BitVec theory

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds `BitVec.toInt_sdiv` plus a lot of related bitvector theory around divisions.

Coauthored-by: Markus Himmel <markus@lean-fro.org>

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1370,6 +1370,291 @@ theorem eq_iff_eq_of_inv (f : α → BitVec w) (g : BitVec w → α) (h : ∀ x,
...
+  by_cases hw : w = 0
+  · subst hw
+    decide +revert
+  have wpos : 0 < w := by omega
+  by_cases h : x = intMin w
+  · subst h
+    simp
+    omega
+  · simp [sdiv_eq]
+    simp [msb_intMin, show 0 < w by omega, h]
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1418]: Can these non-terminal `simp`s be squeezed?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1370,6 +1370,291 @@ theorem eq_iff_eq_of_inv (f : α → BitVec w) (g : BitVec w → α) (h : ∀ x,
...
+
+theorem neg_sdiv {x y : BitVec w} (h : x ≠ intMin w) :
+    (-x).sdiv y = -(x.sdiv y) := by
+  by_cases hx0 : x = 0#w
+  · subst hx0
+    simp
+  · simp only [BitVec.sdiv, msb_neg_of_ne_intMin_of_ne_zero h (by simp [hx0])]
+    cases x.msb <;> cases y.msb <;> simp
+
+-- h' is likely not necessary
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1441]: Yes:
```lean
@[simp] theorem neg_eq_intMin {x : BitVec w} : -x = intMin w ↔ x = intMin w := by
  rw [← BitVec.neg_inj, neg_neg, neg_intMin]

theorem neg_sdiv_neg {x y : BitVec w} (h : x ≠ intMin w) :
    (-x).sdiv (-y) = x.sdiv y := by
  by_cases h' : y = intMin w
  · subst h'
    simp [sdiv_intMin]
  · sorry
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1370,6 +1370,291 @@ theorem eq_iff_eq_of_inv (f : α → BitVec w) (g : BitVec w → α) (h : ∀ x,
...
+  split <;> rename_i hn
+  · split <;> rename_i hm
+    · rw [Int.tdiv_eq_ediv_of_nonneg hn]
+    · rw [Int.tdiv_eq_ediv_of_nonneg hn]
+      simp
+  · split <;> rename_i hm
+    · rw [Int.tdiv_eq_ediv, Int.neg_ediv]
+      simp [hn, Int.neg_sub, Int.add_comm]
+    · rw [Int.tdiv_eq_ediv, Int.neg_ediv, Int.ediv_neg]
+      simp [hn, Int.sub_eq_add_neg, Int.neg_ite]
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1485]: These should move into `Int` files, if they are needed at all.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1370,6 +1370,291 @@ theorem eq_iff_eq_of_inv (f : α → BitVec w) (g : BitVec w → α) (h : ∀ x,
...
+  refine (Nat.eq_zero_or_pos w).elim (by rintro rfl; simp [BitVec.toInt_zero_length]) (fun hw => ?_)
+  rw [BitVec.toInt_intMin_of_pos hw, BitVec.toInt_ofInt_eq_self hw (Int.le_refl _)]
+  simp [Int.neg_lt_self_iff]
+  apply Int.pow_pos
+  omega
+
+theorem toInt_intMin_eq_bmod : (intMin w).toInt = (-2 ^ (w - 1)).bmod (2 ^ w) := by
+  rw [intMin_eq_neg_two_pow, toInt_ofInt]
+
+theorem toInt_eq_toInt_bmod (b : BitVec w) : b.toInt = b.toInt.bmod (2 ^ w) := by
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1498]: There is a case to be made for this to be reversed and called `toInt_bmod_cancel`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1370,6 +1370,291 @@ theorem eq_iff_eq_of_inv (f : α → BitVec w) (g : BitVec w → α) (h : ∀ x,
...
+  simp only [toInt_eq_msb_cond, h, ↓reduceIte, toNat_neg, Int.ofNat_emod]
+  norm_cast
+  rw [Nat.mod_eq_of_lt]
+  · omega
+  · have := @BitVec.isLt w x
+    have ne_zero := ne_zero_of_msb_true h
+    simp only [ne_eq, toNat_eq, toNat_ofNat, zero_mod] at ne_zero
+    omega
+
+theorem toInt_eq_neg_toNat_neg_of_nonneg {x : BitVec w} (h : x = 0#w ∨ x.msb = true) :
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1528]: The name is unexpected; shouldn't it be `nonpos`?

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1432,5 +1717,4 @@ theorem setWidth_mul {w len} {x y : BitVec w} (hlen : len ≤ w) :
 theorem extractLsb'_mul {w len} {x y : BitVec w} (hlen : len ≤ w) :
     (x * y).extractLsb' 0 len = (x.extractLsb' 0 len) * (y.extractLsb' 0 len) := by
   simp [← setWidth_eq_extractLsb' hlen, setWidth_mul hlen]
-
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Bitblast.lean:1435]: This empty line can stay I think.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -641,6 +650,38 @@ theorem eq_zero_or_eq_one (a : BitVec 1) : a = 0#1 ∨ a = 1#1 := by
...
+
+@[simp]
+theorem toInt_one (h : 1 < w) : (1#w : BitVec w).toInt = 1 := by
+  rw [toInt_eq_toNat_of_msb, toNat_one (by omega)]
+  · simp
+  · simp
+    omega
+
+theorem msb_eq_toNat {x : BitVec w}:
+    x.msb = decide (x.toNat ≥ 2 ^ (w - 1)) := by
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Lemmas.lean:666]: Is there a reason to state this using `≥` instead of `≤`?

File: src/Init/Data/BitVec/Bitblast.lean (hunk 1 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: Resolved.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 3 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: Moved.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 4 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1465]: Addressed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 5 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean:1495]: Fixed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 6 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: Fixed.

File: src/Init/Data/BitVec/Bitblast.lean (hunk 2 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Bitblast.lean]: Thank you.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 7 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Resolved.

File: src/Init/Data/Int/Lemmas.lean [hunk 8]
```diff
@@ -582,4 +582,10 @@ protected theorem natCast_succ (n : Nat) : ((n + 1 : Nat) : Int) = (n : Int) + 1
 @[simp] protected theorem natCast_mul (a b : Nat) : ((a * b : Nat) : Int) = (a : Int) * (b : Int) := by
   simp
 
+/-! 'if then else' lemmas -/
+
+theorem Int.neg_ite {n m : Int} {P : Prop} [Decidable P] :
```
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/Int/Lemmas.lean]: Addressed!
